US08039465B2
(1R,4Z,8Z,13R,15R)-15-Hydroxy-5-methyl-15-((R)-2-oxothiazolidin-4-yl)-14-oxa-2-aza-bicyclo[11.3.1]heptadeca-4,8-dien-3-one, Compound 8c
Application of the method shown in Example 46, with the modification that (1R,4Z,8Z,13R,15R)-15-methoxy-15-(((R)-3-(4-methoxybenzyl)-2-oxothiazolidin-4-yl)-5-methyl-14-oxa-2-aza-bicyclo[11.3.1]heptadeca-4,8-dien-3-one was substituted for (R)-4-((1R,4Z,8Z,13R,15R)-15-methoxy-5-methyl-3-oxo-2,14-dioxa-bicyclo[11.3.1]heptadeca-4,8-dien-15-yl)-3-(4-methoxybenzyl)thiazolidin-2-one, afforded the title compound, together with the 8E-isomer.

reactant | ((R)-3-(4-methoxybenzyl)-2-oxothiazolidin-4-yl)-5-methyl-14-oxa-2-aza-bicyclo[11.3.1]heptadeca-4,8-dien-3-one | COC1=CC=C(CN2C(SC[C@H]2C23NC(C=C(CCC=CCCCC(OCC2)C3)C)=O)=O)C=C1 | C27H36N2O4S
reactant | (R)-4-((1R,4Z,8Z,13R,15R)-15-methoxy-5-methyl-3-oxo-2,14-dioxa-bicyclo[11.3.1]heptadeca-4,8-dien-15-yl)-3-(4-methoxybenzyl)thiazolidin-2-one | CO[C@]1(O[C@@H]2CCC\C=C/CC\C(=C/C(O[C@@H](C1)C2)=O)\C)[C@H]2N(C(SC2)=O)CC2=CC=C(C=C2)OC | C28H37NO6S
product | (1R,4Z,8Z,13R,15R)-15-Hydroxy-5-methyl-15-((R)-2-oxothiazolidin-4-yl)-14-oxa-2-aza-bicyclo[11.3.1]heptadeca-4,8-dien-3-one | O[C@]1(O[C@@H]2CCC\C=C/CC\C(=C/C(N[C@@H](C1)C2)=O)\C)[C@H]2NC(SC2)=O | C19H28N2O4S
